US07795444B2
Preparation of (S)—N-{2-(4-nitrophenyl)-1-[2-(thiophen-2-yl)thiazol-4-yl]ethyl}-1-phenylmethanesulfonamide (24):
To a suspension of 2-(4-nitrophenyl)-1-(2-thiophene2-ylthiazol-4-yl)ethylamine, 8, (330 mg, 0.80 mmol) in CH2Cl2 (6 mL) at 0° C. is added diisopropylethylamine (0.30 mL, 1.6 mmol) followed by phenylmethanesulfonyl chloride (167 mg, 0.88 mmol). The reaction mixture is stirred at room temperature for 14 hours. The mixture is diluted with CH2Cl2 and washed with sat. NaHCO3 followed by brine, dried (Na2SO4), filtered and concentrated in vacuo. The resulting residue is purified over silica to afford 210 mg of the desired product as a white solid.

reactant | 2-(4-nitrophenyl)-1-(2-thiophene2-ylthiazol-4-yl)ethylamine | [N+](=O)([O-])C1=CC=C(C=C1)CC(C=1N=C(SC1)C=1SC=CC1)N | C15H13N3O2S2
reactant | diisopropylethylamine | 1.6 mmol, 0.30 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | phenylmethanesulfonyl chloride | 0.88 mmol, 167 mg | C1(=CC=CC=C1)CS(=O)(=O)Cl | C7H7ClO2S
solvent | CH2Cl2 | 6 mL | C(Cl)Cl | CH2Cl2
product | (S)—N-{2-(4-nitrophenyl)-1-[2-(thiophen-2-yl)thiazol-4-yl]ethyl}-1-phenylmethanesulfonamide | 210 mg | [N+](=O)([O-])C1=CC=C(C=C1)C[C@@H](C=1N=C(SC1)C=1SC=CC1)NS(=O)(=O)CC1=CC=CC=C1 | C22H19N3O4S3
